Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: UROLOGY
 
Allergies: 
adhesive tape
 
Attending: ___
 
Chief Complaint:
nephrolithiasis
 
Major Surgical or Invasive Procedure:
Cystoscopy, removal of left ureteral stent, right ureteral stent 
placement, right percutaneous lithotripsy, right renal access 
with ultrasound and fluoroscopic guidance.

 
History of Present Illness:
___ w/ CKD found to have bilateral nephrolithiasis, s/p L PCNL 
___ now returns for mini RIGHT PCNL.
 
Past Medical History:
RENAL INSUFFICIENCY                                             
Bland urine sediment, neg spep/upep, u/s showed non-obstructing 
stones only.                                                    
HYPERTENSION                                                 
GOUT                                                            
TOBACCO ABUSE                                                   
___ cigs/day since age ___.                                      
ALCOHOL ABUSE                                                   
H/O FRACTURED VERTEBRAE                                         
after falling 3 stories working ___ (eval at ___ for   
this).                                                          
H/O PNEUMOTHORAX                                                
traumatic                                                       
H/O NEPHROLITHIASIS                                             
H/O DEEP VENOUS THROMBOPHLEBITIS         
 
Social History:
ountry of Origin:  ___                                         
Marital status:     Divorced                                    
Children:           Yes: 4 kids.                                
Lives with:         ___ Children                  
Lives in:           House                                       
Work: ___
Multiple partners:  ___                                      
___ activity:    Present                                     
Sexual orientation: Female                                      
Sexual Abuse:       Denies                                      
Domestic violence:  Denies                                      
Tobacco use:        Current every day smoker                    
Smoking cessation   Yes                                         
counseling offered:                                             
Alcohol use:        Present                                     
Alcohol use         2 nips, 2 beers/day                         
comments:                                                       
Recreational drugs  Denies                        

 
Family History:
Relative Status   Age Problem              Onset Comments       
Mother   Living       HEALTHY                                   

Father   Living       ? HEALTHY                                 

Uncle    Living       DIABETES ___          maternal uncle.

Uncle    Living       STROKE                     paternal uncle.

Comments: No FH colon or prostate cancer. Siblings: Healthy.    
          Kids:  Healthy.                         
 
Physical Exam:
Alert, oriented and interactive. cooperative. 
Resp: No tachypnea, on room air
Abd: RIGHT PCN site c/d/i. no induration/erythema. steristrip. 
DSD replaced prior to discharge. 
GU: IUC has been removed. Voided without significant PVR. 
___: SCDs in place. no l/e e/p/c/d. No calf pain bilat.
 
Pertinent Results:
___ 07:45AM BLOOD WBC-8.3 RBC-3.20* Hgb-9.1* Hct-28.5* 
MCV-89 MCH-28.4 MCHC-31.9* RDW-15.3 RDWSD-50.6* Plt ___

___ 07:45AM BLOOD Glucose-81 UreaN-26* Creat-2.6* Na-137 
K-4.5 Cl-103 HCO3-23 AnGap-11
___ 10:46AM BLOOD Glucose-89 UreaN-27* Creat-2.4* Na-142 
K-5.3 Cl-104 HCO3-18* AnGap-20*
 
Brief Hospital Course:
Mr. ___ was admitted to Dr. ___ for 
nephrolithiasis management with a known stone burden worse on 
left vs right. He returns for right sided intervention aftger 
undergoing left sided intervention several weeks ago. He 
underwent cystoscopy, removal of left ureteral stent, right 
ureteral stent placement, right percutaneous lithotripsy, right 
renal access with ultrasound and
fluoroscopic guidance. He tolerated the procedure well, 
recovered in the PACU before transfer to the general surgical 
floor. See the dictated operative note for full details. 
Overnight, the patient was hydrated with intravenous fluids and 
received appropriate perioperative prophylactic antibiotics and 
pain medications. He was sent to CT scan for assessment of 
residual stone burden. On POD1 his labs were rechecked. The PCN 
site was c/d/i and dressing was replaced prior to discharge.   
At discharge on POD1, patient_x0092_s pain was controlled with oral 
pain medications, tolerating regular diet, ambulating without 
assistance, and voiding without difficulty.  He  was explicitly 
advised to follow up as directed as the 
indwelling ureteral stent must be removed and or exchanged and 
additional intervention may be required for any residual stone 
burden. 
 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. sevelamer HYDROCHLORIDE 800 mg oral TID W/MEALS 
2. Docusate Sodium 100 mg PO BID 
3. OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN Pain - Severe 
4. Acetaminophen 650 mg PO Q4H:PRN Pain - Mild/Fever 
5. amLODIPine 5 mg PO DAILY 
6. PredniSONE 20 mg PO DAILY:PRN gouty flare 

 
Discharge Medications:
1.  Tamsulosin 0.4 mg PO QHS 
RX *tamsulosin [Flomax] 0.4 mg ONE capsule(s) by mouth at 
bedtime Disp #*30 Capsule Refills:*0 
2.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild/Fever  
3.  amLODIPine 5 mg PO DAILY  
4.  Docusate Sodium 100 mg PO BID  
5.  OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN Pain - Severe 
RX *oxycodone 5 mg ONE tablet(s) by mouth Q6hrs Disp #*10 Tablet 
Refills:*0 
6.  PredniSONE 20 mg PO DAILY:PRN gouty flare  
7.  sevelamer HYDROCHLORIDE 800 mg oral TID W/MEALS  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
nephrolithiasis, complex, right and left
acute kidney injury on CKD

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You can expect to see occasional blood in your urine and to 
possibly experience some urgency and frequency over the next 
month; this may be related to the passage of stone fragments or 
the indwelling ureteral stent. You may aslo experience some pain 
associated with spasm of your ureter.

-The kidney stone may or may not have been removed AND/or there 
may be fragments/others still in the process of passing.

-Ureteral stents MUST be removed or exchanged and therefore it 
is IMPERATIVE that you follow-up as directed. 

-You may continue to periodically see small amounts of blood in 
your urine--this is normal and will gradually improve

-Resume your pre-admission/home medications EXCEPT as noted. You 
should ALWAYS call to inform, review and discuss any medication 
changes and your post-operative course with your primary care 
doctor. HOLD ASPIRIN and aspirin containing products for one 
week unless otherwise advised.

-AVOID lifting/pushing/pulling items heavier than 10 pounds (or 
3 kilos; about a gallon of milk) or participate in high 
intensity physical activity (which includes intercourse) until 
you are cleared by your Urologist in follow-up.

-No DRIVING for THREE WEEKS or until you are cleared by your 
Urologist

-You may shower normally but do NOT immerse your nephrostomy 

-Do not drive or drink alcohol while taking narcotics and do not 
operate dangerous machinery

-You may be given _x0093_prescriptions_x0094_ for a stool softener and/or a 
gentle laxative. These are over-the-counter medications that may 
be _x0093_health care spending account reimbursable._x0094_ 

-Colace (docusate sodium) may have been prescribed to avoid 
post-surgical constipation or constipation related to use of 
narcotic pain medications. Discontinue if loose stool or 
diarrhea develops. Colace is a stool-softener, NOT a laxative.

-Senokot (or any gentle laxative) may have been prescribed to 
further minimize your risk of constipation. 

-If you have fevers > ___ F, vomiting, or increased redness, 
swelling, or discharge from your incision, call your doctor or 
go to the nearest emergency room.
 
Followup Instructions:
___